US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine (150 mg), 4-aminomorpholine (36 mg) and triethylamine (52 mg) in dry methanol (5 ml) was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was partitioned between ethyl acetate and aqueous sodium hydrogen carbonate solution. The organic layer was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and methanol (10:1) to afford an oily product, which was treated with 4N hydrogen chloride in ethyl acetate solution (0.5 ml) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-[3-(morpholinoamino)propyl]piperazine dihydrochloride (58 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine | 150 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCOS(=O)(=O)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C26H27F6N3O4S
reactant | 4-aminomorpholine | 36 mg | NN1CCOCC1 | C4H10N2O
reactant | triethylamine | 52 mg | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-4-[3-(morpholinoamino)propyl]piperazine dihydrochloride | 58 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCNN2CCOCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C29H33F6N5O2.2ClH/c30-28(31,32)22-14-20(15-23(17-22)29(33,34)35)27(41)40-9-8-38(7-3-6-37-39-10-12-42-13-11-39)19-24(40)16-21-18-36-26-5-2-1-4-25(21)26;;/h1-2,4-5,14-15,17-18,24,36-37H,3,6-13,16,19H2;2*1H/t24-;;/m1../s1
